US08283365B2
Intermediate 1: N-(4-cyano-2-methylphenyl)-2,2,2-trifluoroacetamide
In a round-bottomed flask 4-amino-3-methylbenzonitrile (Alfa Aesar, Avocado, Lancaster; 10.88 g, 82 mmol), and Et3N (22.95 mL, 165 mmol) were stirred in DCM (200 mL) at 0° C. TFAA (13.95 mL, 99 mmol) was added slowly via a dropping funnel and the mixture stirred at room temperature for 30 min. The reaction mixture was poured into 2M HCl (150 mL). The organic layer was then collected and then washed with a saturated solution of sodium bicarbonate (150 mL), dried (MgSO4), filtered and the solvent was removed to give a dark yellow solid (19.37 g);

reactant | 4-amino-3-methylbenzonitrile | 82 mmol, 10.88 g | NC1=C(C=C(C#N)C=C1)C | C8H8N2
reactant | Et3N | 165 mmol, 22.95 mL | CCN(CC)CC | C6H15N
reactant | TFAA | 99 mmol, 13.95 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | HCl | 2M, 150 mL | Cl | ClH
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(4-cyano-2-methylphenyl)-2,2,2-trifluoroacetamide | 19.37 g | C(#N)C1=CC(=C(C=C1)NC(C(F)(F)F)=O)C | C10H7F3N2O
